US07816526B2
Synthesis of 2-ethyl-6-methylsulfonylimidazo[1,2-b]pyridazin-3-ylsulfonamide
2-Ethyl-6-methylthioimidazo[1,2-b]pyridazin-3-ylsulfonamide (1.10 g, 4.04 mmol) was dissolved in DMF (10.0 ml) and stirred under ice-cooling, during which m-chloro-perbenzoic acid (abbreviated into mCPBA) (70%, 2.48 g, 10.1 mmol) was added thereto. The mixture was stirred under ice-cooling for 1 hour and at room temperature for 3 hours, and then the reaction solution was poured into water (50.0 ml), and 25% ammonia water (1.0 ml) was added thereto. After the reaction solution was stirred for 5 minutes, the precipitated crystals were filtered and washed with water, to give the title compound as colorless crystals. The yield was 1.04 g (84.5%).

reactant | 2-Ethyl-6-methylthioimidazo[1,2-b]pyridazin-3-ylsulfonamide | 4.04 mmol, 1.10 g | C(C)C=1N=C2N(N=C(C=C2)SC)C1S(=O)(=O)N | C9H12N4O2S2
reactant | m-chloro-perbenzoic acid | 10.1 mmol, 2.48 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | 50.0 ml | O | H2O
reactant | ammonia water | 1.0 ml | O.N
solvent | DMF | 10.0 ml | CN(C)C=O | C3H7NO
product | 2-ethyl-6-methylsulfonylimidazo[1,2-b]pyridazin-3-ylsulfonamide | C(C)C=1N=C2N(N=C(C=C2)S(=O)(=O)C)C1S(=O)(=O)N | C9H12N4O4S2
